US05010083
A solution of 40.8 g of 1,2,3,4-tetrahydro-6-methoxy-2-oxo-4-quinoline acetic acid, methyl ester in 500 ml of dimethyl formamide was added over 1 hour to a chilled (0° C.) suspension of 4.6 g of sodium hydride in 300 ml of dimethyl formamide. After stirring for 1 hour at ambient temperature, 27.5 g of methyl iodide was added and the mixture stirred for an additional hour. The mixture was then quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and concentrated to an oil. Column chromatography on silica gel (elution with hexane-ethyl acetate) afforded 1,2,3,4-tetrahydro-6-methoxy-1-methyl-2-oxo-4-quinoline acetic acid, methyl ester.

reactant | 1,2,3,4-tetrahydro-6-methoxy-2-oxo-4-quinoline acetic acid, methyl ester | 40.8 g | COC=1C=C2C(CC(NC2=CC1)=O)CC(=O)OC | C13H15NO4
reactant | sodium hydride | 4.6 g | [H-].[Na+]
reactant | methyl iodide | 27.5 g | CI | CH3I
solvent | dimethyl formamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 300 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-tetrahydro-6-methoxy-1-methyl-2-oxo-4-quinoline acetic acid, methyl ester | COC=1C=C2C(CC(N(C2=CC1)C)=O)CC(=O)OC | C14H17NO4
